US05155240
In the same manner as in Example 1, a solution of an (R)-binaphthol-dichlorotitanium complex was obtained. This solution was cooled to -70° C. in a dry ice-acetone bath. To this solution were successively added 88 mg (1 mmole) of methyl glyoxylate and 224 mg (2 mmole) of 1-methoxy-2-methyl-1,3-pentadiene. Reaction was then allowed to proceed at -30° C. for 1 hour, and 10 ml of a sodium hydrogencarbonate aqueous solution was added to the reaction mixture to terminate the reaction. This reaction mixture was filtered through Celite and then subjected to extraction once with 20 ml of diethyl ether and twice with 20 ml of ethyl acetate. The extract was dried over anhydrous magnesium sulfate. Thereafter, the solvents were removed by evaporation, and the residue was purified by silica gel column chromatography (200 mesh; developing solvent: hexane/ethyl acetate=10/1), thereby obtaining 108 mg of desired optically active 2-methoxy-6-methoxycarbonyl-3,5-dimethyl-5,6-dihydropyran (yield: 54%).

reactant | methyl glyoxylate | 1 mmole, 88 mg | C(C=O)(=O)OC | C3H4O3
reactant | 1-methoxy-2-methyl-1,3-pentadiene | 2 mmole, 224 mg | COC=C(C=CC)C | C7H12O
solvent | sodium hydrogencarbonate | 10 ml | C(O)([O-])=O.[Na+]
product | 2-methoxy-6-methoxycarbonyl-3,5-dimethyl-5,6-dihydropyran | yield: 54% | COC1OC(C(C=C1C)C)C(=O)OC | C10H16O4
